US05236950
5.1 g of m-chloroperbenzoic acid was added to a solution of 10.0 g of ethyl phytyl thioether dissolved in 30 ml of methylene chloride. The resulting mixture was stirred for 2 hours at room temperature. After the completion of the reaction, the reaction mixture was washed with 2% aqueous sodium hdyrogensulfite solution, 3% aqueous sodium hydrogencarbonate solution and water in this order and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: n-hexane:ethyl acetate =9:1) to obtain 9.4 g (yield: 90%) of oily ethyl phytyl sulfoxide.

reactant | m-chloroperbenzoic acid | 5.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl phytyl thioether | 10.0 g | C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)SCC | C22H44S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl phytyl sulfoxide | 9.4 g, yield: 90% | C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)S(=O)CC | C22H44OS
